Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Percocet
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with history of chronic mesenteric ischemia with bowel
resections, ___ and SMA stents, recently s/p an aorto-celiac to
common hepatic and SMA bifurcated bypass graft for acute on
chronic ischemia and occluded SMA stent. Patient postoperative
course was unremarkable, she did well and was discharged on
postop day #7. At home she did well with some initial diarrhea
that resolved. 

Patient presents today with intermittent RLE abdominal pain that
started today at 2:30 am, associated with nausea, burping, but 
no
vomiting. Her last bowel movement was yesterday and normal. She
has not been passing flatus today. 

 
Past Medical History:
PMH: MI early ___, s/p cardiac cath, no intervention
PSH: ___ stenting ___, ___ stenting ___, Ex-lap and SBR
___, take back for bleeding ___, SMA stenting 
___, hysterectomy

 
Social History:
___
Family History:
Brother and mother with DM. 
 
Physical Exam:
Physical Exam on discharge:

NAD
RRR
CTAB
Abd soft, trace amount of tenderness in RLQ, much improved from 
admission, no rebound or guarding

Pulse: Fem Pop DP ___
Right   p   p   p  p
Left    p   p   p  p
 
Pertinent Results:
___ 07:58AM BLOOD WBC-2.7* RBC-3.42* Hgb-9.8* Hct-31.3* 
MCV-92 MCH-28.7 MCHC-31.3 RDW-17.4* Plt ___
___ 01:44AM BLOOD WBC-3.8*# RBC-3.62* Hgb-10.5* Hct-33.5* 
MCV-92 MCH-28.9 MCHC-31.3 RDW-17.6* Plt ___
___ 07:35AM BLOOD WBC-2.5* RBC-3.43* Hgb-9.7* Hct-31.5* 
MCV-92 MCH-28.2 MCHC-30.7* RDW-17.5* Plt ___
___ 07:10AM BLOOD WBC-2.4* RBC-3.32* Hgb-9.2* Hct-30.1* 
MCV-91 MCH-27.7 MCHC-30.5* RDW-17.1* Plt ___
___ 07:35AM BLOOD WBC-3.6*# RBC-3.60* Hgb-10.2* Hct-33.2* 
MCV-92 MCH-28.4 MCHC-30.8* RDW-16.9* Plt ___
___ 01:44AM BLOOD ___ PTT-24.7* ___
___ 07:10AM BLOOD ___ PTT-24.8* ___
___ 11:52AM BLOOD Glucose-150* UreaN-12 Creat-0.6 Na-140 
K-3.3 Cl-101 HCO3-22 AnGap-20
___ 07:58AM BLOOD Glucose-104* UreaN-6 Creat-0.4 Na-140 
K-3.7 Cl-107 HCO3-28 AnGap-9
___ 01:00PM BLOOD ALT-10 AST-16 AlkPhos-78 Amylase-27 
TotBili-0.3
___ 01:44AM BLOOD ALT-9 AST-26 AlkPhos-110* TotBili-0.4
___ 01:44AM BLOOD CK-MB-1 cTropnT-<0.01
___ 02:45PM BLOOD Lactate-3.8*
___ 08:41AM BLOOD Lactate-1.5

CTA ___ 

1.  Patent supraceliac to CHA/SMA graft.  Continued high-grade 
celiac stenosis and occluded ___ stents. 
2.  Moderate free pelvic fluid. 
3.  Cholelithiasis. 
4.  Moderate fecal loading.  No acute bowel pathology. 

CT abd and pelvis ___
1.  There is a 3-mm stone in the distal common bile duct with 
surrounding area 
of hyperdense material suggestive of sludge. 
2.  Cholelithiasis without evidence of cholecystitis. 
3.  Moderate free pelvic fluid. 
4.  Again noted is unchanged mild bowel wall thickening 
involving areas of the 
colon and small bowel.  These findings are nonspecific and may 
be due to 
hypoalbuminemia,  or sequela of ischemia. No free air, portal 
venous air, 
pneumatosis or contained fluid collections. 
5.  New small right pleural effusion. 

CXR ___
COPD.  No acute cardiopulmonary process. 
  

 
Brief Hospital Course:
Patient was admitted to the hospital and made NPO after initial 
CT scan showed no signs of worsening mesenteric ischemia. She 
was started on IV fluids and given a bowel regimen which 
improved her abdominal pain. Her LFTs were normal and she was 
without leukocytosis. She did initially have an elevated 
lactate, however and so this was trended and came down without 
intervention. Her abdominal pain improved and her diet was 
advanced from clears to low residue diet. She had a PO contrast 
CT scan as well to look for signs of obstruction, which there 
were none. She was noted to have cholelithiasis and 3mm CBD 
stone but there was no ductal dilatation or perichilecystic 
fluid and her pain was not characteristic for GB etiology. On 
initially starting diet she had return of discomfort and was 
reluctant to continue with a diet. Although, her return of pain 
was not entirely clear as she mentioned it being pleuritic and 
also in her left chest. EKG at this time showed no change and 
her cardiac enzymes were negative x3. Her CXR also showed no 
signs of an acute process. She was again encouraged  to take a 
low residue diet, which she did well with after moving her 
bowels ___ more times. At time of discharge she only had a trace 
of abdominal discomfort on deep palpation that was thought to be 
probably be her baseline for now. she was tolerating a regualr 
diet, ambulating, and voiding without issue. She was discharged 
on ASA 325 ___s Senna/Colace.
 
Medications on Admission:
aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  
omeprazole 20 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO once a day.  

 
Discharge Medications:
1. aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
3. omeprazole 20 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO once a day.  
4. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*0*
5. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.
Disp:*60 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital for evaluation of your 
abdominal pain. Due  to your history of mesenteric ischemia you 
had a CT scan of your abdomen to look at your blood supply to 
your bowels. The CT scan showed that your blood supply was 
adequate. You were watched and given multiple enemas to help 
move your bowels as the buildup of stool was thought to be 
causing some of your discomfort. In addition, you had a second 
CT scan with contrast that you drank to make sure there was no 
blockage or narrowing in your small or large bowel, which there 
was none. You were started back on a low residue diet and should 
continue this on discharge.

You were seen by nutrition to help you understand what a low 
residue diet consists of. Please continue this low residue diet 
through your follow up appointment with Dr. ___.

You should make sure you are getting adequate nutrition. You had 
been drinking Ensure supplements at home, which you should 
continue.

You should resume taking all of your home medications. You 
should continue taking Aspirin 325mg daily. You were also given 
prescriptions for colace and senna to help keep your bowel 
movements regular.
 
Followup Instructions:
___